US05576324
5-[(E-4-Chloro-2-butenyl)oxy]-8-methylcarbostyril (16.15 g) was dissolved in dimethylformamide (200 ml), to which sodium acetate (35.0 g) was added and stirred at 120° C. for 6 hours. After the reaction was completed, the reaction mixture was condensed under reduced pressure. Water was added to the condensate and extracted with chloroform. The chloroform phase was dried, and the solvent was removed. The residue was recrystallized from a solvent mixture of chloroform-ether to obtain 11.80 g of 5-[(E-4-acetoxy-2butenyl)oxy]-8-methylcarbostyril as colorless powdery crystals (67.1%).

reactant | 5-[(E-4-Chloro-2-butenyl)oxy]-8-methylcarbostyril | 16.15 g | ClC/C=C/COC1=C2C=CC(NC2=C(C=C1)C)=O | C14H14ClNO2
reactant | sodium acetate | 35.0 g | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-[(E-4-acetoxy-2butenyl)oxy]-8-methylcarbostyril | 11.80 g, 67.1% | C(C)(=O)OC/C=C/COC1=C2C=CC(NC2=C(C=C1)C)=O | C16H17NO4
